US05143923
N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)butyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride
A mixture of 1,2-benzisothiazole-3-carboxylic acid chloride (2.44 g), 1-(2-methoxyphenyl)-4-(4-aminobutyl)piperazine (3.26 g), and triethylamine (6 ml), in sieve-dried toluene (100 ml) was heated to 80° C., with stirring, overnight. After 24 hr, the reaction mixture was cooled to room temperature and poured into water. The organic phase was separated and the aqueous phase was extracted with ether. The ether extracts and toluene phase were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica using ethyl acetate as the eluent. The appropriate fractions were collected and concentrated. The residue was taken up in ether and ethereal hydrogen chloride was added. The precipitate was recrystallized from ethanol/ethyl acetate and dried (0.1 mm mercury, refluxing toluene temperature) to provide 2.13 g (34.6%) of product, mp 174°-178° C.

reactant | 1,2-benzisothiazole-3-carboxylic acid chloride | 2.44 g | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | 1-(2-methoxyphenyl)-4-(4-aminobutyl)piperazine | 3.26 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN | C15H25N3O
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)butyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride | 2.13 g, 34.6% | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCCNC(=O)C1=NSC2=C1C=CC=C2 | InChI=1S/C23H28N4O2S.2ClH/c1-29-20-10-4-3-9-19(20)27-16-14-26(15-17-27)13-7-6-12-24-23(28)22-18-8-2-5-11-21(18)30-25-22;;/h2-5,8-11H,6-7,12-17H2,1H3,(H,24,28);2*1H
